US07754742B2
Add 6-azidomethyl-nicotinic acid methyl ester (2.3 g, 11.97 mmol) and tetrahydrofuran (100 mL) in a flask and cool to 0° C. Add 1M lithium aluminum hydride solution in tetrahydrofuran (17.95 mL, 17.95 mmol) slowly. Stir the mixture for 30 min. Quench the reaction with ice. Add 10 mL of saturated Rochelle's salt solution. Stir for 30 min. Filter, remove the solvent under reduced pressure to give 6-aminomethyl-pyridin-3-yl-methanol (1.6 g, 97% yield) as a yellow oil.

reactant | 6-azidomethyl-nicotinic acid methyl ester | 11.97 mmol, 2.3 g | COC(C1=CN=C(C=C1)CN=[N+]=[N-])=O | C8H8N4O2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle's salt | 10 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17.95 mmol, 17.95 mL | O1CCCC1 | C4H8O
product | 6-aminomethyl-pyridin-3-yl-methanol | 1.6 g, 97% yield | NCC1=CC=C(C=N1)CO | C7H10N2O
